US05162524
Diphenylmethyl 2-[(3R,4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-p-toluenesulfonyl-2-butenoate (XVq)
To a solution of 1.0 g (1.48 mmol) of diphenylmethyl 2-[(3R,4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-hydroxy-2-butenoate (XIVa) was added, dropwise, 283.93 μL (1.63 mmol) of diisopropylethylamine followed by 527.12 mg of p-toluenesulfonic anhydride. The solution was cooled to -78° C and stirred for 2.0 hr before quenched with ice-water solution (10 mL). The organic layer was NaHCO3 solution, brine and 10% HCl solution. After the solution was further dried (MgSO4) and concentrated, the title compound was isolated as a foam. Further purification by flash chromatography (silica, 50% ethyl acetate in hexanes) afforded 1.04 g (85% yield) of the product. The compound was isolated as a single isomer.

reactant | diphenylmethyl 2-[(3R,4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-hydroxy-2-butenoate | 1.48 mmol, 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)S[C@@H]1[C@@H](C(N1C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(C)O)=O)NC(COC1=CC=CC=C1)=O)C | C35H32N2O8S2
reactant | diisopropylethylamine | 1.63 mmol, 283.93 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | p-toluenesulfonic anhydride | 527.12 mg | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
product | Diphenylmethyl 2-[(3R,4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-p-toluenesulfonyl-2-butenoate | C1(=CC=C(C=C1)S(=O)(=O)S[C@@H]1[C@@H](C(N1C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(C)S(=O)(=O)C1=CC=C(C=C1)C)=O)NC(COC1=CC=CC=C1)=O)C | C42H38N2O9S3
